** sch_path: /home/tororo009/work/LR-hasegawa/LR_hasegawa/LR_Work2/Citizen035/INV_citizen_1.sch
**.subckt INV_citizen_1 IN OUT
*.ipin IN
*.opin OUT
x1 IN OUT INVERTER_Citizen
**** begin user architecture code

blabla




VVDD VDD 0 DC 3.3

VIN IN 0 pulse(0 3.3 100n 1n 1n 100n 200n)

*Cload Q 0 1p
*Cload XQ 0 1p


.control
tran 1n 1000n
write buffer_citizen#1.raw

.endc

**** end user architecture code
**.ends

* expanding   symbol:  work/LR-hasegawa/LR_hasegawa/LR_Work2/Citizen035/INVERTER_Citizen.sym # of pins=2
** sym_path: /home/tororo009/work/LR-hasegawa/LR_hasegawa/LR_Work2/Citizen035/INVERTER_Citizen.sym
** sch_path: /home/tororo009/work/LR-hasegawa/LR_hasegawa/LR_Work2/Citizen035/INVERTER_Citizen.sch
.subckt INVERTER_Citizen IN OUT
*.iopin OUT
*.iopin IN
M1 OUT IN GND GND nch w=1.2u l=0.4u as=0 ps=0 ad=0 pd=0 m=1
M2 OUT IN VDD VDD pch w=3.6u l=0.4u as=0 ps=0 ad=0 pd=0 m=1
.ends

.GLOBAL VDD
.GLOBAL GND
.end
